US08530648B2
a) (2-methyl-1-tosyl-1H-indol-3-yl)methanol
To a stirred solution of 2-methyl-1-tosyl-1H-indole-3-carbaldehyde [104142-15-6] (1.2 g, 3.83 mmol) in methanol (40 mL), NaBH4 (145 mg, 3.83 mmol) was added at 0° C. and stirred for 10 min. Then the mixture was allowed to warm to rt and stirred for 4 h. The mixture was concentrated under reduced pressure at 45° C., saturated aqueous NH4Cl solution was added and extracted with ethyl acetate (2×). The combined organic layers were washed with water, brine and dried over anhydrous Na2SO4. The organic layer was filtered and concentrated under reduced pressure to yield the title compound as a pale yellow liquid (1.0 g, 83%). [TLC Rf=0.16 (ethyl acetate/hexane 30:70)].

reactant | 2-methyl-1-tosyl-1H-indole-3-carbaldehyde | 3.83 mmol, 1.2 g | CC=1N(C2=CC=CC=C2C1C=O)S(=O)(=O)C1=CC=C(C)C=C1 | C17H15NO3S
reactant | NaBH4 | 3.83 mmol, 145 mg | [BH4-].[Na+]
solvent | methanol | 40 mL | CO | CH4O
product | (2-methyl-1-tosyl-1H-indol-3-yl)methanol | 1.0 g, 83% | CC=1N(C2=CC=CC=C2C1CO)S(=O)(=O)C1=CC=C(C)C=C1 | C17H17NO3S
